US09340538B2
Step B: Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(5-fluorothiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2,4-dichlorophenyl)-2-(5-fluorothiazol-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate (0.44 g, 1.06 mmol) was reacted with NBS (0.19 g, 1.06 mmol) according to the procedure as described in Example 1, Step B to give the title compound as a yellow solid (0.36 g, 70%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2,4-dichlorophenyl)-2-(5-fluorothiazol-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate | 1.06 mmol, 0.44 g | ClC1=C(C=CC(=C1)Cl)C1N=C(NC(=C1C(=O)OCC)C)C=1SC(=CN1)F | C17H14Cl2FN3O2S
reactant | NBS | 1.06 mmol, 0.19 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(5-fluorothiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.36 g, 70% | BrCC1=C(C(N=C(N1)C=1SC(=CN1)F)C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C17H13BrCl2FN3O2S
